US09029531B2
Step A: methyl 2-(3-aminopyridin-2-yl)acetate
Methyl 2-(3-nitropyridin-2-yl)acetate (1 g, 5 mmol) was dissolved in MeOH and stirred under the atmosphere of H2 at room temperature overnight. LC-MS find the desired product. It was filtered through a pad of Celite and evaporated to get the desired product. It was directly used for the next step. LC-MS: m/z (M+H)=167.1

reactant | Methyl 2-(3-nitropyridin-2-yl)acetate | 5 mmol, 1 g | [N+](=O)([O-])C=1C(=NC=CC1)CC(=O)OC | C8H8N2O4
solvent | MeOH | CO | CH4O
product | methyl 2-(3-aminopyridin-2-yl)acetate | NC=1C(=NC=CC1)CC(=O)OC | C8H10N2O2
